US06900353B2
Preparation of (2-{4-[(3,5-difluorophenyl)methoxy]phenyl]-2-hydroxycyclohexyl)[(methylethyl)sulfonyl]amine
The title compound is prepared in a manner analogous to the procedure set forth in Example 48 from 3,5-difluorobenzyl bromide and [2-hydroxy-2-(4-hydroxyphenyl)cyclohexyl][(methylethyl)sulfonyl]amine to provide 511 mg as a brown oil. This material was purified via silica gel chromatography employing the Chromatotron® using a 4000 micron rotor while eluting with a solvent of methylene chloride/ethyl acetate 4:1 to yield the title compound (360 mg, 85%) as a white solid. Ion spray M.S. 438.3 (M*−1). Calculated for C22H27NO4SF2: Theory: C 60.12, H 6.19, N 3.19. Found: C 59.32, H 6.14, N 3.26.

reactant | 3,5-difluorobenzyl bromide | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
reactant | [2-hydroxy-2-(4-hydroxyphenyl)cyclohexyl][(methylethyl)sulfonyl]amine | OC1(C(CCCC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)O | C15H23NO4S
product | (2-{4-[(3,5-difluorophenyl)methoxy]phenyl]-2-hydroxycyclohexyl)[(methylethyl)sulfonyl]amine | 360 mg, 85% | FC=1C=C(C=C(C1)F)COC1=CC=C(C=C1)C1(C(CCCC1)NS(=O)(=O)C(C)C)O | C22H27F2NO4S
